US06121283
6-Amino-3,4dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (6)
The 6-nitro-3,4-dihydro-1H-isoquinoline2-carboxylic acid tert-butyl ester (82 mg, 0.29 mmol) in THF (2 mL) was hydrogenated with 5% Pt-C (50% water wet, 10 mg) at 50 psi for 5 hrs. The catalyst was filtered off, the solvent was removed under vacuum and the residue chromatographed on silica with ethyl acetate/hexanes to give 42 mg (57%) of the title product.

reactant | 6-nitro-3,4-dihydro-1H-isoquinoline2-carboxylic acid tert-butyl ester | 0.29 mmol, 82 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)[N+](=O)[O-] | C14H18N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Pt-C | 10 mg | [Pt] | Pt
product | 6-Amino-3,4dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 42 mg, 57% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)N | C14H20N2O2
